US06262272B1
1-(2-Fluoro-4-methoxyphenyl)-2,5-dimethyl-1H-pyrrole:
The crude product from the previous reaction (1-(2-fluoro-4-iodo-phenyl)-2,5-dimethyl-1 H-pyrrole, 70.0 g, 222 mmol) was dissolved in 230 mL of MeOH and 70 mL of DMF. To this solution was added NaOMe (35.9 g, 666 mmol, 3.0 eq) and CuCl (3.3 g, 31 mmol, 15 mol %). The resulting mixture was warmed to reflux for 4 h. After cooling to room temperature, isopropyl ether (IPE) (500 mL), 5% aqueous NH4Cl (220 mL), and water (350 mL) were added, and the mixture was stirred overnight. The mixture was then filtered through celite, the layers were separated, and the aqueous layer extracted with 350 mL of IPE. The combined organic extracts were then washed with 10% aqueous NH4OH (200 mL), and passed through a pad of silica gel (100 g). Concentration provided a brown oil, which crystallized upon standing (45.2 g, 93% yield). Recrystallization from 135 mL of hot hexane provided 30.1 g (62% yield) of product as a brown solid, m.p. 67-69° C. 1H NMR (CDCl3): d 7.12 (t, J=8 Hz, 1H), 6.75 (d, J=8 Hz, 1H), 6.73 (s, 1H), 5.89 (s, 2H), 3.82 (s, 3H), 1.97 (s, 6H); 13C NMR (CDCl3) (9 of 10 lines observed) d 159.1 (d, J=260 Hz), 130.7, 129.5, 109.9 (d, J=3 Hz), 106.0, 105.6, 102.3 (d, J=25 Hz), 55.7, 12.4; MS (El): m/z 219 (100).

reactant | 1-(2-fluoro-4-iodo-phenyl)-2,5-dimethyl-1 H-pyrrole | FC1=C(C=CC(=C1)I)N1C(=CC=C1C)C | C12H11FIN
reactant | NaOMe | 666 mmol, 35.9 g, 3.0 eq | C[O-].[Na+]
reactant | isopropyl ether | 500 mL | C(C)(C)OC(C)C | C6H14O
reactant | NH4Cl | 220 mL | [NH4+].[Cl-]
solvent | MeOH | 230 mL | CO | CH4O
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
catalyst | CuCl | 31 mmol, 3.3 g | Cl[Cu]
solvent | water | 350 mL | O | H2O
product | 1-(2-Fluoro-4-methoxyphenyl)-2,5-dimethyl-1H-pyrrole | 30.1 g, 62% yield | FC1=C(C=CC(=C1)OC)N1C(=CC=C1C)C | C13H14FNO
